US06313116B1
4-Methoxy-2-(piperidin-1-yl)benzothiazole-7-carboxylic acid (3,5-dimethyiisoxazol-4-yl)amide
Starting from 4-methoxy-2(piperidin-1-yl)benzothiazole-7-carboxylic acid (0.24 g), oxalyl chloride (2.0 ml), dichloromethane (20 ml) and dimethylformamide (1 drop), followed by 3,5-dimethylisoxazol-4-amine (0.10 g), triethylamine (0.25 ml) and dichloromethane (20 ml). Purification by flash chromatography (eluent 5% methanol in dichloromethane) yielded the title compound as a white solid (29 mg). TLC Rf 0.49 (ethyl acetate); MS found M+1 387.

reactant | 4-methoxy-2(piperidin-1-yl)benzothiazole-7-carboxylic acid | 0.24 g | COC1=CC=C(C2=C1N=C(S2)N2CCCCC2)C(=O)O | C14H16N2O3S
reactant | oxalyl chloride | 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-dimethylisoxazol-4-amine | 0.10 g | CC1=NOC(=C1N)C | C5H8N2O
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Methoxy-2-(piperidin-1-yl)benzothiazole-7-carboxylic acid (3,5-dimethyiisoxazol-4-yl)amide | 29 mg | CC1=NOC(=C1NC(=O)C1=CC=C(C=2N=C(SC21)N2CCCCC2)OC)C | C19H22N4O3S
